US07842713B2
2-(Hydroxymethyl)-N-(5-methylpyridin-2-yl)-4-(4-(methylsulfonyl)-phenoxy)benzofuran-6-carboxamide
To a solution of 2-amino-5-methylpyridine (305 mg, 2.82 mmol) in DCE (10 mL) at 0° C. was added dimethylaluminum chloride (1M in hexanes, 2.82 mL) drop-wise. After the addition, the ice-bath was removed, and the mixture was stirred for 30 minutes at room temperature. Ethyl 2-(hydroxymethyl)-4-(4-(methylsulfonyl)phenoxy)benzofuran-6-carboxylate (110 mg, 0.282 mmol) was then added, and the stirring was continued for another 14 h. The reaction was quenched with potassium sodium tartrate tetrahydrate (20% w/w) cautiously. The product was extracted with CHCl3, washed with brine and dried over MgSO4. The product was purified by reverse phase HPLC to give the title compound (90 mg, 71%) as a white solid. 1 H NMR (300 MHz, DMSO-D6) δ ppm 2.27 (s, 3 H) 3.20 (s, 3 H) 4.58 (d, J=5.84 Hz, 2 H) 5.60 (t, J=5.84 Hz, 1 H) 6.61 (s, 1 H) 7.24 (d, J=8.67 Hz, 2 H) 7.66 (dd, J=8.48, 2.26 Hz, 1 H) 7.70 (s, 1 H) 7.93 (d, J=8.67 Hz, 2 H) 8.06 (d, J=8.48 Hz, 1 H) 8.22 (d, J=2.26 Hz, 1 H) 8.24 (s, 1 H) 10.83 (s, 1 H). LCMS m/z 453.0 (M+H)+.

reactant | 2-amino-5-methylpyridine | 2.82 mmol, 305 mg | NC1=NC=C(C=C1)C | C6H8N2
reactant | dimethylaluminum chloride | 1M, 2.82 mL | [Cl-].C[Al+]C
reactant | Ethyl 2-(hydroxymethyl)-4-(4-(methylsulfonyl)phenoxy)benzofuran-6-carboxylate | 0.282 mmol, 110 mg | OCC=1OC2=C(C1)C(=CC(=C2)C(=O)OCC)OC2=CC=C(C=C2)S(=O)(=O)C | C19H18O7S
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
product | 2-(Hydroxymethyl)-N-(5-methylpyridin-2-yl)-4-(4-(methylsulfonyl)-phenoxy)benzofuran-6-carboxamide | 90 mg, 71% | OCC=1OC2=C(C1)C(=CC(=C2)C(=O)NC2=NC=C(C=C2)C)OC2=CC=C(C=C2)S(=O)(=O)C | C23H20N2O6S
